US04739083
6-Methyl-4-oxo-N-phenyl-2-propyl-4H-pyran-3-carboxamide.
A mixture of 2.05 g (10 m mol) of 3-oxo-N-phenylhexanamide (m.p. 77.0°-78.5° C.), 0.9 g (15 m mol) of N,N-dimethylhydrazine and 15 ml of toluene was stirred for 8 hours at 60° C. Then, unreacted N,N-dimethylhydrazine and the resulted water, together with about 2 ml of toluene were distilled off outside the reaction system. A solution of 3.90 g (25 m mol) of 2-ethyl-2,6-dimethyl-4H-1,3-dioxin-4-one in 8 ml of toluene was dropwise added to the remaining solution over a period of 30 minutes, while refluxing. The mixture was further refluxed for 2.5 hours and 3 ml of toluene was distilled off outside the reaction system. The reaction mixture was cooled to room temperature. The resulted crystals were filtered off, washed and dried to obtain 1.32 g (Yield: 49%) of the title compound.

reactant | 3-oxo-N-phenylhexanamide | 2.05 g | O=C(CC(=O)NC1=CC=CC=C1)CCC | C12H15NO2
reactant | N,N-dimethylhydrazine | 0.9 g | CN(N)C | C2H8N2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Methyl-4-oxo-N-phenyl-2-propyl-4H-pyran-3-carboxamide | 1.32 g, Yield: 49% | CC1=CC(C(=C(O1)CCC)C(=O)NC1=CC=CC=C1)=O | C16H17NO3
